US05364943
A. 2-Chloro-3-(2-methoxy-5-trifluoromethoxy benzylamino) pyridine
To a 75 mL 3-necked round bottom flask fitted with mechanical stirrer, thermometer, addition funnel, and nitrogen inlet, were charged 29 mL acetic acid and 1.45 grams (11.3 mmoles) 3-amino-2-chloropyridine. The mixture was agitated for 5 minutes at 25° C. for dissolution. To the resulting solution was added 3.10 grams (14.1 mmoles/1.25 equivalents) of 2-methoxy-5-trifluoromethoxy benzaldehyde. Sodium triacetoxyborohydride, (4.79 grams, 22.6 mmoles, 2.0 equivalents) was added in portions while maintaining the temperature below 25° C. The reaction mixture was stirred 22 hours at 25° C. before adding another 0.5 grams of sodium triacetoxyborohydride. After stirring an additional 1 hour and 15 minutes, the reaction mixture was vacuum concentrated to 12.5 mL and partitioned between 26 mL each of methylene chloride and water. The pH was adjusted to 9.5 with 25% sodium hydroxide solution while maintaining a temperature of 25°-30° C. with cooling. The layers were separated, and the aqueous layer was washed with 14.5 mL methylene chloride. The methylene chloride layers were combined and dried with magnesium sulfate. The magnesium sulfate was removed by filtration, and the methylene chloride filtrate was evaporated and displaced with ethyl acetate, which resulted in a yellow oil (3.49 gms/92.8% weight yield). The structure of the product was established by high resolution NMR and GC/MS. 1H NMR (CDCl3) 7.70 (dd, 1H), 7.09 (bs, 1H), 7.02 (m, 2H), 6.85 (m, 2H), 4.95 (t, 1H), 4.36 (d, 2H), 3.88 (s, 3H).

reactant | 3-amino-2-chloropyridine | 11.3 mmoles, 1.45 grams | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | 2-methoxy-5-trifluoromethoxy benzaldehyde | 14.1 mmoles, 3.10 grams, 1.25 equivalents | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
reactant | Sodium triacetoxyborohydride | 22.6 mmoles, 4.79 grams, 2.0 equivalents | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.5 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 29 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-3-(2-methoxy-5-trifluoromethoxy benzylamino) pyridine | ClC1=NC=CC=C1NCC1=C(C=CC(=C1)OC(F)(F)F)OC | C14H12ClF3N2O2
